US08614206B2
To a solution of tert-butyl 4-(1-(2,2-difluoroethyl)-4-nitro-1H-pyrazol-5-yl)-6-hydroxy-1,4-diazepane-1-carboxylate (370 mg, 0.95 mmol) in DCM (10 mL) was added deoxo-Fluor® (50% solution in THF, 1.0 mL, 2.37 mmol) and the mixture was stirred at room temperature for 18 hr. Saturated aqueous NaHCO3 solution (10 mL) was added slowly and the mixture was stirred for 15 min. The aqueous layer was extracted with DCM (10 mL), the combined organic layers were passed through a phase separation cartridge and the solvent was removed under reduced pressure. Purification via silica gel column chromatography gave tert-butyl 4-(1-(2,2-difluoroethyl)-4-nitro-1H-pyrazol-5-yl)-6-fluoro-1,4-diazepane-1-carboxylate as a pale green gum (366 mg, 74%). 1H NMR (400 MHz, CDCl3) δ 8.12 (s, 1H), 6.34-6.00 (m, 1H), 5.08-2.75 (m, 11H), 1.48 (s, 9H).

reactant | tert-butyl 4-(1-(2,2-difluoroethyl)-4-nitro-1H-pyrazol-5-yl)-6-hydroxy-1,4-diazepane-1-carboxylate | 0.95 mmol, 370 mg | FC(CN1N=CC(=C1N1CCN(CC(C1)O)C(=O)OC(C)(C)C)[N+](=O)[O-])F | C15H23F2N5O5
reactant | deoxo-Fluor | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | tert-butyl 4-(1-(2,2-difluoroethyl)-4-nitro-1H-pyrazol-5-yl)-6-fluoro-1,4-diazepane-1-carboxylate | 366 mg, 74% | FC(CN1N=CC(=C1N1CCN(CC(C1)F)C(=O)OC(C)(C)C)[N+](=O)[O-])F | C15H22F3N5O4
